US06335360B1
4-Chloroindole-2-carboxylic acid methyl ester
Methyl 2-azido-3-(2-chlorophenyl)-propenoate (3.566 g, 144 mmol) was suspended in toluene (800 ml) and the mixture was heated at reflux for three hours, then cooled and allowed to stir at room temperature overnight. A yellow crystalline material was obtained by filtration and recrystallised from hexane.

reactant | Methyl 2-azido-3-(2-chlorophenyl)-propenoate | 144 mmol, 3.566 g | N(=[N+]=[N-])C(C(=O)OC)=CC1=C(C=CC=C1)Cl | C10H8ClN3O2
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Chloroindole-2-carboxylic acid methyl ester | COC(=O)C=1NC2=CC=CC(=C2C1)Cl | C10H8ClNO2
